US04409018
2-(4-Chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-(N-methylthiocarbamoylthio)-1H-isoindol-1-one
In 20 ml of dichloromethane was dissolved 3.0 g of 2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-mercapto-1H-isoindol-1-one, and 0.8 g of methyl isothiocyanate, together with one drop of triethylamine, was added to the solution, followed by stirring at room temperature for 5 hours. The dichloromethane was distilled off under reduced pressure, and the resulting crystals were washed with cold ethanol and dried, thereby producing 3.5 g (yield of 94%) of the subject compound. Recrystallization from ethanol yielded white crystals, 112°-114° C.

reactant | 2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-mercapto-1H-isoindol-1-one | 3.0 g | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1S)=O)F | C14H13ClFNOS
reactant | methyl isothiocyanate | 0.8 g | CN=C=S | C2H3NS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | triethylamine | one drop | C(C)N(CC)CC | C6H15N
product | 2-(4-Chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-(N-methylthiocarbamoylthio)-1H-isoindol-1-one | 3.5 g, yield of 94% | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1SC(NC)=S)=O)F | C16H16ClFN2OS2
